US05883049
An acetonitrile (10 mL) solution of 2-(2,4-dichloro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.50 g, 1.61 mmol), cyclopentylbromide (0.19 mL, 1.77 mmol) and potassium carbonate (0.22 g, 1.61 mmol) was stirred for 2 hours under reflux. A saturated ammonium chloride solution (20 mL) was added to the resulting mixture and the organic layer was separated. The aqueous layer was extracted with diethyl ether (10 mL×2 times), and the organic layer combined was washed with a saturated sodium chloride solution (40 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give crude product, which was purified by silica gel column (Wakogel C-200, ethyl acetate/hexane=1/4-1/2) to obtain a white solid of 2-(5-cyclopentyloxy-2,4-dichlorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.37 g, yield:60.7%).

reactant | 2-(2,4-dichloro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 1.61 mmol, 0.50 g | ClC1=C(C=C(C(=C1)Cl)O)N1C(N2C(=CCCC2)C1=O)=O | C13H10Cl2N2O3
reactant | cyclopentylbromide | 1.77 mmol, 0.19 mL | C1(CCCC1)Br | C5H9Br
reactant | potassium carbonate | 1.61 mmol, 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(5-cyclopentyloxy-2,4-dichlorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.37 g, yield:60.7% | C1(CCCC1)OC=1C(=CC(=C(C1)N1C(N2C(=CCCC2)C1=O)=O)Cl)Cl | C18H18Cl2N2O3
